US08067445B2
Step 4: 5-Fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
Prepared according to the procedure described in Example 1, Step 2, using the following starting materials: 2-bromo-5-fluorobenzaldehyde and bis(pinacolato)diboron.

reactant | 2-bromo-5-fluorobenzaldehyde | BrC1=C(C=O)C=C(C=C1)F | C7H4BrFO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 5-Fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | FC=1C=CC(=C(C=O)C1)B1OC(C(O1)(C)C)(C)C | C13H16BFO3
